US08008279B2
tert-butyl 5-methoxycarbonylmethyl-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate
N-boc-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (450 mg, 1.65 mmol) was dissolved in DMF (7 mL) and stirred at room temperature. The vessel was flushed with argon and sodium hydride (67.0 mg, 1.65 mmol) was added. After 30 minutes, methyl bromoacetate (253 mg, 1.65 mmol) in DMF (2 mL) was added and the mixture stirred overnight. The solvent was removed in vacuo and the residue partitioned between brine (20 mL) and ethyl acetate (2×40 mL). Combined organics were dried (sodium sulphate), concentrated in vacuo and adsorbed onto silica for purification by flash chromatography (0-40% ethyl acetate/isohexane). This gave tert-butyl 5-methoxycarbonylmethyl-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate as a pale yellow foam (387 mg, 68%).

reactant | N-boc-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 1.65 mmol, 450 mg | C(=O)(OC(C)(C)C)N1CC2=C(NC=3C=CC=CC23)CC1 | C16H20N2O2
reactant | sodium hydride | 1.65 mmol, 67.0 mg | [H-].[Na+]
reactant | methyl bromoacetate | 1.65 mmol, 253 mg | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-butyl 5-methoxycarbonylmethyl-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate | COC(=O)CN1C2=C(C=3C=CC=CC13)CN(CC2)C(=O)OC(C)(C)C | C19H24N2O4
